US08293913B2
25.2 3-(3-fluorophenylsulfonyl)quinolin-8-amine
10.13 g of 3-(3-fluorophenylsulfonyl)-8-nitroquinoline (30.5 mmol) were suspended in 150 ml of acetic acid and warmed to 110° C. 8.51 g of iron powder (152 mmol) were added in small portions with stirring. Stirring was continued for 1 h. Then, the reaction mixture was cooled to room temperature, partitioned between water and ethyl acetate. The organic phase was separated and the aqueous layer was extracted three times with ethyl acetate. Water was added to the combined organic layers and the pH was adjusted to alkaline conditions with aqueous ammonia solution under rapid stirring. The organic layer was separated, extracted twice with water, dried over magnesium sulfate, filtered and the solvents were evaporated to yield 9.2 g of the product. MS (ESI+) m/z=303.0 [M+H]+

reactant | 3-(3-fluorophenylsulfonyl)-8-nitroquinoline | 30.5 mmol, 10.13 g | FC=1C=C(C=CC1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)[N+](=O)[O-] | C15H9FN2O4S
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 152 mmol, 8.51 g | [Fe] | Fe
product | 3-(3-fluorophenylsulfonyl)quinolin-8-amine | 9.2 g | FC=1C=C(C=CC1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)N | C15H11FN2O2S
